US07943607B2
3-[(3-Methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid
Lithium hydroxide monohydrate (13 mg, 0.3 mmol) in water (2.5 mL) was added to a solution of methyl 3-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate (0.12 g, 0.3 mmol) in THF (5 mL) and stirred at RT for 20 hours. The THF was removed in vacuo and the aqueous layer was washed with ethyl acetate (50 mL) to remove any impurities. The aqueous layer was acidified and extracted into ethyl acetate (2×50 mL), washed with brine (50 mL), dried (MgSO4), and the solvent removed in vacuo to give the desired compound as a white solid (110 mg).

reactant | Lithium hydroxide monohydrate | 0.3 mmol, 13 mg | O.[OH-].[Li+]
reactant | methyl 3-[(3-methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 0.3 mmol, 0.12 g | CN1COC2=C(C1=O)C=CC(=C2)OC=2C=C(C(=O)OC)C=C(C2)O[C@@H]2COCC2 | C21H21NO7
solvent | water | 2.5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[(3-Methyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 110 mg | CN1COC2=C(C1=O)C=CC(=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@@H]2COCC2 | C20H19NO7
